US07875640B2
1-((5-tert-butyl-2-iminothiazol-3(2H)-yl)methyl)cyclohexanol
A mixture of 3,3-dimethylbutanal (3.0 mL, 24 mmol), 1-(aminomethyl)cyclohexanol, hydrochloric acid (3.6 g, 22 mmol), triethylamine (3.0 mL, 22 mmol), and 3 g of 4 Å molecular sieves (8-12 mesh beads) in acetonitrile (25 mL) was stirred at ambient temperature for 20 h. The material was filtered through Celite® with acetonitrile (additional 20 mL) then potassium thiocyanate (2.8 g, 29 mmol) was added and the mixture was warmed to 50° C. Iodine (5.5 g, 22 mmol) was added and the mixture was stirred at 50° C. for 16 h then was cooled to ambient temperature. The mixture was then stirred with 50 mL of 20% aqueous sodium metabisulfite for 1 h then the layers were separated and the aqueous layer was extracted with 3×10 mL CH2Cl2. The combined organics were dried over anhydrous Na2SO4, filtered and concentrated under reduced pressure to give the title compound which was carried on without further purification. MS (DCI/NH3) m/z 269 (M+H)+.

reactant | 3,3-dimethylbutanal | 24 mmol, 3.0 mL | CC(CC=O)(C)C | C6H12O
reactant | 1-(aminomethyl)cyclohexanol | NCC1(CCCCC1)O | C7H15NO
reactant | hydrochloric acid | 22 mmol, 3.6 g | Cl | ClH
reactant | triethylamine | 22 mmol, 3.0 mL | C(C)N(CC)CC | C6H15N
reactant | potassium thiocyanate | 29 mmol, 2.8 g | [S-]C#N.[K+]
reactant | Iodine | 22 mmol, 5.5 g | II | I2
reactant | sodium metabisulfite | 50 mL | S(=O)(=O)([O-])S(=O)[O-].[Na+].[Na+]
solvent | acetonitrile | 25 mL | C(C)#N | C2H3N
product | 1-((5-tert-butyl-2-iminothiazol-3(2H)-yl)methyl)cyclohexanol | C(C)(C)(C)C1=CN(C(S1)=N)CC1(CCCCC1)O | C14H24N2OS
